US09120749B2
tert-Butyl 2-(4-aminophenyl)propan-2-ylcarbamate
A pressure flask was charged with a suspension of tert-butyl 2-(4-nitrophenyl)propan-2-yl-carbamate (4.62 mmol) in ethanol (20 mL) and palladium on carbon (100 mg). The flask was placed on a Parr shaker, purged with H2 (30 psi), and stirred overnight. The crude product was filtered through celite, concentrated, and chromatographed (hexane:ethyl acetate) to obtain the desired product (420 mg, 36% over two steps) as an orange-red oil: 1H NMR (300 MHz, CDCl3) δ 7.26-7.17 (m, 2H), 6.67-6.62 (m, 2H), 4.82 (s, 1H), 1.60 (s, 3H), 1.57 (s, 3H), 1.37 (s, 9H).

reactant | tert-butyl 2-(4-nitrophenyl)propan-2-yl-carbamate | 4.62 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C14H20N2O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | tert-Butyl 2-(4-aminophenyl)propan-2-ylcarbamate | 420 mg, 36% | NC1=CC=C(C=C1)C(C)(C)NC(OC(C)(C)C)=O | C14H22N2O2
